US05312929
Preparation of 1-[2-(3,5-dichlorophenyl)-1,1-dimethyl-2-oxoethyl]-4-methyl-3-phenyl-3-pyrrolin-2-one (Compound No. 24)
A solution of 2.2 g (27.6 mmol) of dimethyl sulfoxide in 10 ml of dichloromethane was dropwise added over a period of 15 minutes at -60° C. to a solution of 2.65 g (20.8 mmol) of oxalyl dichloride in 40 ml of dichloromethane. A few minutes later, a solution of 5.4 g (13.8 mmol) of 1-[2-hydroxy-1,1-dimethyl-2-(3,5-dichlorophenyl)ethyl]-4-methyl-3-phenyl -3-pyrrolin-2-one in 20 ml of dichloromethane was dropwise added thereto at -60° C. The mixture was stirred at the same temperature for further 30 minutes. Then, 7 g (69 mmol) of triethylamine was dropwise added thereto, and the mixture was stirred at -60° C. for further 15 minutes. The reaction solution was restored to room temperature, and 20 ml of water was added thereto. The mixture was thoroughly stirred. The organic layer was treated by a conventional method, and crystals thereby obtained were washed with isopropyl ether to obtain 4.6 g (yield: 87%) of the desired product having a melting point of from 157° to 160° C.

reactant | dimethyl sulfoxide | 27.6 mmol, 2.2 g | CS(=O)C | C2H6OS
reactant | oxalyl dichloride | 20.8 mmol, 2.65 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-[2-hydroxy-1,1-dimethyl-2-(3,5-dichlorophenyl)ethyl]-4-methyl-3-phenyl -3-pyrrolin-2-one | 13.8 mmol, 5.4 g | OC(C(C)(C)N1C(C(=C(C1)C)C1=CC=CC=C1)=O)C1=CC(=CC(=C1)Cl)Cl | C21H21Cl2NO2
reactant | triethylamine | 69 mmol, 7 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | 1-[2-(3,5-dichlorophenyl)-1,1-dimethyl-2-oxoethyl]-4-methyl-3-phenyl-3-pyrrolin-2-one | 4.6 g, yield: 87% | ClC=1C=C(C=C(C1)Cl)C(C(C)(C)N1C(C(=C(C1)C)C1=CC=CC=C1)=O)=O | C21H19Cl2NO2
